US06900335B2
In a flask made of glass equipped with a stirrer, a thermometer, a reflux condenser and a dropping funnel and having an inner volume of 200 ml were charged 2.79 g (51.6 mmol) of sodium methoxide and 15 ml of dimethyl sulfoxide under argon atmosphere, and then, while stirring at room temperature, 5.16 g (51.6 mmol) of methyl cyanoacetate with a purity of 99% was gradually added dropwise over 5 minutes. Moreover, at room temperature, to the mixture was gradually added dropwise 5.00 g (25.8 mmol) of 2,4-dichloronitrobenzene with a purity of 98%, and the resulting mixture was reacted at 40 to 48° C. for 10 minutes and at 65° C. for 2 hours. After completion of the reaction, the mixture was cooled to room temperature, 100 ml of ethylacetate was added to the mixture, and 4.30 ml (25.7 mmol) of 6 mol/l hydrochloric acid and 20 ml water were gradually added dropwise while stirring. Then, the organic layer was separated, washed with 50 ml of a saturated saline solution, and dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the resulting concentrate was purified by silica gel column chromatography (filler: Daisogel 1002W, eluent: hexane:ethyl acetate=9:1 (volume ratio)) to obtain 6.11 g (isolation yield: 92%) of methyl 2-(5-chloro-2-nitrophenyl)-2-cyanoacetate as yellowish crystals with a purity of 99% (areal percentage by high performance liquid chromatography).

reactant | sodium methoxide | 51.6 mmol, 2.79 g | C[O-].[Na+]
reactant | methyl cyanoacetate | 51.6 mmol, 5.16 g | C(#N)CC(=O)OC | C4H5NO2
reactant | 2,4-dichloronitrobenzene | 25.8 mmol, 5.00 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | hydrochloric acid | 25.7 mmol, 6 mol/l, 4.30 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | methyl 2-(5-chloro-2-nitrophenyl)-2-cyanoacetate | 6.11 g, yield: 92% | ClC=1C=CC(=C(C1)C(C(=O)OC)C#N)[N+](=O)[O-] | C10H7ClN2O4
